US04839369
2-(3-(4-Methylpiperazin-1-ylmethyl)phenoxymethyl)quinoline
A mixture of 4.7 g (0.015 mol) 2-(3-chloromethylphenoxymethyl) quinoline hydrochloride, 6 g (0.06 mol) N-methylpiperazine in 50 ml acetonitrile was heated over steam bath for a period of 8 hours. Reaction mixture was concentrated to dryness and sluried into water, and extracted with ether. The ether extract was washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure. The residue was passed through a silica gel column using acetone as eluent. Evaporation of eluent gave solid (0.6 g), m.p. 47°-49° C.

reactant | 2-(3-chloromethylphenoxymethyl) quinoline hydrochloride | 0.015 mol, 4.7 g | Cl.ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1
reactant | N-methylpiperazine | 0.06 mol, 6 g | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(3-(4-Methylpiperazin-1-ylmethyl)phenoxymethyl)quinoline | 0.6 g | CN1CCN(CC1)CC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H25N3O
